US08871756B2
N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2,2,2-trifluoroacetamide
To a solution of 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine (3.0 g, 10.6 mmol) in dichloromethane (30 mL) in an ice bath was added dropwise trifluoroacetic anhydride (2.5 g, 11.7 mmol). After the mixture being stirred at room temperature overnight, the reaction was quenched by addition of a saturated aqueous solution of sodium bicarbonate at 0° C. The resulting mixture was extracted with dichloromethane, dried over sodium sulfate and concentrated in vacuo to afford 4.0 g of the crude product as yellow oil.

reactant | 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine | 10.6 mmol, 3.0 g | NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2O
reactant | trifluoroacetic anhydride | 11.7 mmol, 2.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2,2,2-trifluoroacetamide | 4.0 g | C(C1=CC=CC=C1)N(C1(COC1)CNC(C(F)(F)F)=O)CC1=CC=CC=C1 | C20H21F3N2O2
